US07342027B2
4-[N-[1-[N-(benzofuran-2-ylcarbonyl)amino]cyclohexanecarbonyl]amino]-1-[2-[N-(ethoxycarbonyl)amino]phenyl]piperidin-3-one
To the solution of 4-[N-[1-[N-(benzofuran-2-ylcarbonyl)amino]cyclohexanecarbonyl]amino]-1-[2-[N-(ethoxycarbonyl)amino]phenyl]piperidin-3-ol (600 mg, 1.1 mmol) in 10 ml of dimethylsulfoxide (DMSOI), was added 0.46 ml of triethylamine (3.3 mmol). The reaction mixture was cooled to 0° C. Pyridine-SO3 complex (0.51 g, 3.3 mmol) was added to the reaction mixture, which was then stirred for about 2 hours at room temperature. The reaction mixture was diluted with 20 ml of ethyl acetate, washed with brine. The resulting organic layer was dried and concentrated on sodium sulfate. The resulting residue was filtered and dried to give 320 mg of the titled compound as white color.

reactant | 4-[N-[1-[N-(benzofuran-2-ylcarbonyl)amino]cyclohexanecarbonyl]amino]-1-[2-[N-(ethoxycarbonyl)amino]phenyl]piperidin-3-ol | 1.1 mmol, 600 mg | O1C(=CC2=C1C=CC=C2)C(=O)NC2(CCCCC2)C(=O)NC2C(CN(CC2)C2=C(C=CC=C2)NC(=O)OCC)O | C30H36N4O6
reactant | triethylamine | 3.3 mmol, 0.46 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-[N-[1-[N-(benzofuran-2-ylcarbonyl)amino]cyclohexanecarbonyl]amino]-1-[2-[N-(ethoxycarbonyl)amino]phenyl]piperidin-3-one | 320 mg | O1C(=CC2=C1C=CC=C2)C(=O)NC2(CCCCC2)C(=O)NC2C(CN(CC2)C2=C(C=CC=C2)NC(=O)OCC)=O | C30H34N4O6
